US05387710
To an ice-cooled solution of 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol (1.7 g) in toluene (56 ml) was added portionwise sodium hydride (60% dispersion in mineral oil; 0.31 g). After the addition was complete, the mixture was stirred at 70° C. for 1 hour. After cooling, a mixture of ethyl bromoacetate (0.81 ml) and tetra-n-butylammonium bromide (0.10 g) in toluene (14 ml) was added, and the mixture was stirred at 70° C. for 4 hours. After cooling, the reaction mixture was poured into saturated aqueous ammonium chloride, and extracted once with ethyl acetate. The extract was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (gradient elution; chloroform-ethanol; 25:1 to 5:1) to give N-benzyl-3-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine (2.0 g) as an oil.

reactant | 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 1.7 g | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)O | C18H21NO
reactant | sodium hydride | 0.31 g | [H-].[Na+]
reactant | ethyl bromoacetate | 0.81 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 56 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 0.10 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-3-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine | 2.0 g | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OCC(=O)OCC | C22H27NO3
